US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (317 mg, 0.99 mmol), with sodium carbonate (211 mg, 1.99 mmol), and 2-bromo-2'-methoxyacetophenone (457 mg, 1.99 mmol, 2.0 eq) in acetonitrile (10 mL), provided 410 mg (88%) of L-isoleucine, N-[1-(2-(2-methoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide as a pale yellow oil.

reactant | L-proline L-isoleucine benzylamide | 0.99 mmol, 317 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | sodium carbonate | 1.99 mmol, 211 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-2'-methoxyacetophenone | 1.99 mmol, 457 mg, 2.0 eq | BrCC(=O)C1=C(C=CC=C1)OC | C9H9BrO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-(2-methoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide | 410 mg, 88% | COC1=C(C=CC=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C27H35N3O4
